US08809525B2
5-(2,4-Difluorophenyl)-1,2,4-triazin-3-amine (0.45 g, 53%) was prepared from 3-(methylsulfonyl)-5-(2,4-difluorophenyl)-1,2,4-triazine (1.10 g, 4.05 mmol) and 0.5 M ammonia in THF (50 mL, 25 mmol) according to the general procedure of Preparation 2.

reactant | 3-(methylsulfonyl)-5-(2,4-difluorophenyl)-1,2,4-triazine | 4.05 mmol, 1.10 g | CS(=O)(=O)C=1N=NC=C(N1)C1=C(C=C(C=C1)F)F | C10H7F2N3O2S
reactant | ammonia | 0.5 M | N | H3N
reactant | THF | 25 mmol, 50 mL | C1CCOC1 | C4H8O
product | 5-(2,4-Difluorophenyl)-1,2,4-triazin-3-amine | 0.45 g, 53% | FC1=C(C=CC(=C1)F)C=1N=C(N=NC1)N | C9H6F2N4
